US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(1-methylpiperidin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (75 mg, 0.18 mmol) in dichloromethane (2 mL) was added formaldehyde (37% solution in water) (80 μL, 1.06 mmol) and sodium triacetoxyborohydride (113 mg, 0.53 mmol). The reaction was stirred (rt) for 17 h. The mixture was diluted with dichloromethane and was washed with H2O (1×10 mL). The organic phase was washed with brine, and was dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 15% to 50% acetonitrile in water to obtain 13 mg (17%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.88 (s, 1 H), 7.79 (d, 1 H), 7.58 (s, 1 H), 7.37-7.28 (m, 5 H), 7.14 (dd, 1 H), 6.58 (s, 1 H), 5.65 (s, 2 H), 3.11-2.97 (m, 1 H), 2.85 (d, 2 H), 2.18 (s, 3 H), 2.04-1.94 (m, 4H), 1.77-1.61 (m, 2 H); ES-MS m/z 438.3 [M+H]+, HPLC RT (min) 2.11.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.18 mmol, 75 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | formaldehyde | 1.06 mmol, 80 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.53 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(1-methylpiperidin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 13 mg, 17% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCN(CC2)C | C26H27N7
